### PR TITLE
Prove non-negativity of Λ'

### PR DESCRIPTION
**Pull request by Aaron1011**

### CODE REVIEW

File: SpectralThm/RieszMarkovKakutani/Complex.lean [hunk 1]
```diff
@@ -115,7 +115,13 @@ theorem exists_pos_lin_func : ∃ (Λ : C₀(X, ℝ) →L[ℝ] ℝ), ∀ (f : C
   -- Then `Λ f ≥ 0`, `Λ` satisfies the two required inequalities,
   have (f : C_c(X, ℝ≥0)) : 0 ≤ Λ' f := by
     -- because it is the sup of nonnegative quantities
-    sorry
+    unfold Λ'
```
Comment (oliver-butterley) [inline SpectralThm/RieszMarkovKakutani/Complex.lean:118]:
```suggestion
```
No need to explicitly unfold here, it is done automatically by apply in the following line

**Review by oliver-butterley — CHANGES_REQUESTED** [review]
Thanks! That's great
